Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Planned admission for AVM resection

 
Major Surgical or Invasive Procedure:
___ Suboccipital craniotomy for resection of AVM
___ Angiogram

 
History of Present Illness:
___ is a ___ year old woman with a history of
cerebellar AVM s/p suboccipital craniotomy ___ and recurrent
hemorrhage after fall ___ here for planned AVM excision. She
presents from rehab. She is chronically NPO for dysphagia and
gets tube feeds via PEG tube although these have been held
recently due to chronic nausea. She has a UTI, currently on
ampicillin, and her rheumatoid arthritis medications are being
held while she has an active infection. She has a chronic foley
for urinary retention. At the previous hospitalization she
required trach placement, but this was decanulated ___.
Currently she states she is doing well and is here for crani. 
She
endorses chronic dysarthria, dysphagia, urinary retention, and
diplopia since her hemorrhage. 

 
Past Medical History:
PMHx: osteoporosis, UTI, nephrolithiasis, anemia, leukopenia,
immunosuppression, hip replacement, cataract surgery, retinal
detachment, hysterectomy, appendectomy

 
Social History:
___
Family History:
No history of brain hemorrhage

 
Physical Exam:
Physical Examination On Admission:
98.3  138/73  68  18  100% RA
Gen: thin, comfortable, NAD.
HEENT:  NC/AT
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+, PEG site c/d/i
Extrem: Warm and well-perfused, no edema. Fingers deformed
bilaterally.
GU: Foley

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect. Speech fluent with dysarthria. No paraphasic errors.
Repitition intact. Orientation: Oriented to person, place, and
date.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3
mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally with
horizontal nystagmus with lateral gaze. Endorses mild diplopia
with upward gaze.
V: Facial sensation intact and symmetric.
VII: Mild right NLF flattening.
VIII: Hearing intact to finger rub.
IX, X: Palatal elevation symmetrical.
XI: trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. 

Sensation: Intact to light touch and propioception bilaterally.

Reflexes: B  T Br Pa Ac
Right     ___  2  1
Left      3+ ___  2

Toes downgoing bilaterally.

Coordination: mild dysmetria with finger-nose-finger, L>R. 

Physical Examination On Discharge:
Awake and alert, slurred speech (baseline).  Oriented to person, 
place.  Moving all extremities.  No pronator drift.  Bilateral 
hands/fingers contracted.  Full strength throughout otherwise.  
Posterior scalp incision CDI, closed with sutures.  Right groin 
site clean, dry, intact, soft.  No ecchymosis, hematoma present.
 
Pertinent Results:
CTA HEAD W&W/O C & RECONS ___ 
1.  Approximately 8 mm vascular blush within the cerebellum with 
a draining vein into the torcula, corresponding to the AVM seen 
on conventional angiogram from ___. There is 
additionally a prominent inferior vermian vein 
draining into prominent veins along the posterior fourth 
ventricle. 
2. Postsurgical changes of occipital craniectomy.  No 
intracranial hemorrhage at this time. 

Cerebral Angiogram ___:
This left vertebral artery angiography confirmed a complete 
obliteration and resection of the superior cerebellar AVM.  
There is no evidence of residual AVM or any kind of early 
draining vein.  The AVM is completely resected.  The ___, 
superior cerebellar artery and PCA branches are all well open 
and there is no evidence of distal or proximal thromboembolic 
complications. 

CT Head ___:
Patient is status post cerebellar AVM resection with expected 
postsurgical changes. 

 
Brief Hospital Course:
___ y/o F with history of cerebellar AVM presents for resection. 
She was taken to the OR on ___ with no intraoperative 
complications and then to angiogram where no residual AVM was 
seen. She was transferred to the ICU for close monitoring. 
Patient developed nausea and vomiting and rapid afib in which 
5mg lopressor was given with success. Head CT was performed and 
showed expected post-operative changes with pneumocephalus. She 
remained stable overnight into ___. On ___ urology and GI 
consults were called, and she was deemed fit for transfer to the 
floor. Gastroenterology recommended several antiemetics for 
nausea. Urology recommended follow-up with the outpatient nurse 
practitioner for urodynamic studies. 

On ___, the patient remained neurologically stable. The bandage 
was removed. The incision was closed with sutures and was clean, 
dry and intact. The patient was evaluated by Gastroenterology 
for her chronic nausea.  Based on their assessment, they 
recommended standing zofran, ativan PRN for belching and if 
those agent aren't satisfactory, reglan may be added.  If, after 
all these therapies, the patient still has nausea, an EGD would 
be considered (as an outpatient).  A 12-lead ECG was obtained to 
assess her QTc while on these agents.  The interval was within 
normal limits.

On ___, ___ and OT were consulted and recommended that Mrs. 
___ be discharged to a rehabilitation facility to regain her 
strength.  Per her discharge instructions, Mrs. ___ should 
follow up with Dr. ___ the gastroenterology service (Dr. 
___.  At the time of discharge, the patient was 
afebrile, hemodynamically and neurologically stable.

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ampicillin 250 mg PO Q6H 
2. Bisacodyl ___X/WEEK (___) 
3. Gabapentin 50 mg NG BID 
4. Heparin 5000 UNIT SC BID 
5. Levothyroxine Sodium 100 mcg NG DAILY 
6. Miconazole Powder 2% 1 Appl TP BID 
7. Omeprazole 40 mg PO DAILY 
8. Sertraline 25 mg NG DAILY 
9. Sodium Chloride 1 gm PO BID 
10. Acetaminophen (Liquid) 650 mg PO Q6H:PRN pain 
11. Morphine Sulfate 2 mg IV Q6H:PRN pain 
12. Ondansetron 4 mg NG Q8H:PRN nausea 
13. Ondansetron 4 mg IV Q8H:PRN nausea 

 
Discharge Medications:
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN pain 
2. Ampicillin 250 mg PO Q6H 
3. Bisacodyl ___X/WEEK (___) 
4. Gabapentin 50 mg NG BID 
5. Levothyroxine Sodium 100 mcg NG DAILY 
6. Sertraline 25 mg NG DAILY 
7. Sodium Chloride 1 gm PO BID 
8. Docusate Sodium 100 mg PO BID 
9. Lansoprazole Oral Disintegrating Tab 30 mg G TUBE DAILY 
10. Lorazepam 0.5-1 mg IV Q4H:PRN belching 
11. Senna 8.6 mg PO BID:PRN constipation 
12. Heparin 5000 UNIT SC BID 
13. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Cerebellar AVM
Chronic nausea
Urinary retention
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
•Have a friend/family member check your incision daily for 
signs of infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Your wound was closed with sutures. You may wash your hair 
only after sutures have been removed. 
•You may shower before this time using a shower cap to cover 
your head.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
•Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
•Fever greater than or equal to 101.5° F.

 
Followup Instructions:
___